US04230850
STAGE A. 3,8-Diphenyl-4-hydroxy-5,6,7,8-tetrahydrocoumarin
Prepared according to the method of Example 14, Stage A, by thermal condensation in diphenyl ether of 2-phenyl-cyclohexanone and ethyl phenyl malonate. M.P. 185° C. (Dipropyl ether/ethanol).

reactant | 2-phenyl-cyclohexanone | C1(=CC=CC=C1)C1C(CCCC1)=O | C12H14O
reactant | ethyl phenyl malonate | C(CC(=O)OC1=CC=CC=C1)(=O)OCC | C11H12O4
reactant | Dipropyl ether ethanol | C(CC)OCCC.C(C)O
solvent | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3,8-Diphenyl-4-hydroxy-5,6,7,8-tetrahydrocoumarin | C1(=CC=CC=C1)C=1C(OC=2C(CCCC2C1O)C1=CC=CC=C1)=O | C21H18O3
